US07592456B2
Step 2: (1S)-1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-3-methyl-phenyl)ethanol
Prepared according to the method of Example 6 Step 4 using (1S)-1-(2-iodo-3-methylphenyl)ethanol and sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate to give the title compound as a white solid (58 mg). SFC (10% MeOH, chiralpak AD-H) e.e. >99%; 1H NMR (400 MHz, d6-DMSO): δ 8.6 (1H, s), 8.35 (1H, s), 8.31 (1H, d, J=8.7 Hz), 8.17 (1H, d, J=8.7 Hz), 8.03 (1H, d, J=9.4 Hz), 7.93-7.89 (2H, m), 7.85 (1H, d, J=7.7 Hz), 7.75 (1H, m) 7.6 (1H, t, J=8.7 Hz), 7.4-7.35 (2H, t, J=7.5 Hz), 7.3 (1H, d, J=7.4 Hz) 5.9 (1H, m), 5.35 (1H, d, J=7.3 Hz), 2.5 (3H, s) 1.3 (3H, d, J=6.3 Hz); m/z (ES+) 403 [(M-OH)+].

reactant | (1S)-1-(2-iodo-3-methylphenyl)ethanol | IC1=C(C=CC=C1C)[C@H](C)O | C9H11IO
reactant | sodium 6-(4-fluorophenyl)naphthalene-2-sulfinate | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)[O-].[Na+]
product | (1S)-1-(2-{[6-(4-Fluorophenyl)-2-naphthyl]sulfonyl}-3-methyl-phenyl)ethanol | 58 mg | FC1=CC=C(C=C1)C=1C=C2C=CC(=CC2=CC1)S(=O)(=O)C1=C(C=CC=C1C)[C@H](C)O | C25H21FO3S
